US07615562B2
{4-[5-(2-Amino-2-methyl-propyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method C, starting from (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and (1,1-Dimethyl-2-thiophen-2-yl-ethyl)-carbamic acid tert-butyl ester (prepared by BOC protection of 1,1-Dimethyl-2-thiophen-2-yl-ethylamine), followed by BOC cleavage with HCl in dioxane.

reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | (1,1-Dimethyl-2-thiophen-2-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC=1SC=CC1)(C)C)=O | C13H21NO2S
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | {4-[5-(2-Amino-2-methyl-propyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | NC(CC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)(C)C | C21H33N5S
